2125-02-13 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Received Boluses through the night
   Mild confusion at night time
   Ongoing profuse diarrhea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2125-2-13**] 12:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-13**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**27**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36
C (96.8
   HR: 93 (90 - 103) bpm
   BP: 100/52(64) {77/40(46) - 120/85(90)} mmHg
   RR: 17 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63.1 kg (admission): 63.1 kg
             Total In:
                                                                  4,227 mL
                                                                    427 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  3,867 mL
                                                                    427 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                     95 mL
   Urine:
                                                                    645 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,282 mL
                                                                    332 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : Bases bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, Cyanosis, LE with chronic venous stasis
   Skin:  Warm. RUE swelling
   Labs / Radiology
   230 K/uL
   11.6 g/dL
   95 mg/dL
   2.6 mg/dL
   17 mEq/L
   4.5 mEq/L
   82 mg/dL
   107 mEq/L
   136 mEq/L
   35.8 %
   14.0 K/uL
        [image002.jpg]
                             [**2125-2-11**]  02:57 PM
                             [**2125-2-11**]  11:22 PM
                             [**2125-2-12**]  02:39 AM
                             [**2125-2-12**]  11:19 AM
                             [**2125-2-12**]  05:30 PM
                             [**2125-2-13**]  05:27 AM
   WBC
   13.8
   13.8
   14.0
   Hct
   32.8
   35.0
   36.1
   35.8
   Plt
   [**Telephone/Fax (3) 13154**]
   Cr
   2.4
   2.2
   2.4
   2.6
   TropT
   0.07
   0.05
   0.05
   Glucose
   71
   66
   77
   95
   Other labs: PT / PTT / INR:15.8/36.6/1.4, CK / CKMB /
   Troponin-T:73/11/0.05, ALT / AST:36/59, Alk Phos / T Bili:93/0.5,
   Differential-Neuts:78.0 %, Band:15.0 %, Lymph:2.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:209 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:5.7 mg/dL
   CT Abdomen:
   IMPRESSION:
   1. Colonic wall thickening, which may be relate to reported history of
   C.
   diff colitis. No colonic dilation, or perforation.
   2. Total body anasarca with free fluid in the abdomen and pelvis.
   3. Extensive sigmoid diverticulosis without evidence for
   diverticulitis;
   however, this evaluation is limited by lack of IV contrast.
   4. Small bilateral pleural effusions, left greater than right.
   5. Bilateral renal cysts, some appear hemorrhagic.
   6. Infrarenal IVC filter, which may be chronically occluded.
   7. Severe rotatory scoliosis with lumbar degenerative changes.
   Assessment and Plan
   89 year old male with HTN, DM, CRI and recent C.diff colitis presents
   with ongoing diarrhea and dehyrdation
   # Diarrhea- Etiology may be [**2-6**] to recurrence/relapse of C.diff colitis
   given recent history of, known + C.diff at rehab and incomplete
   treatment course. However viral gastroenteritis vs bacterial also on
   differntial. Pt does have elevated WBC with 30% bands now improving.
   C.Diff positive on admission.
   -Continue IV Flagyl, PO Vanc- currently day #[**3-18**] (start date [**2-11**])
   -LR boluses prn
   -Hold ACE, BP meds given hypotension
   -KUB and CT Abdomen done; evidence of colitis; no free air/obstruction
   or megacolon
   -?Curbside ID regarding duration
   #Elevated WBC- Presume [**2-6**] infectious diarrhea, At presentation
   bandemia 30%, U/A negative, CXR w/o obvious infection; will treat for
   C.diff as above and low threshold to start empiric treatment with
   Vanc/Zosyn if hemodynamically unstable, spikes fever
   -Culture data to date only positive for C.diff
   -Follow daily diffs on leukocytosis (currently trending down)
   # Pleural Effusion: Unclear etiology as he is clinically hypovolemic.
   Patient with known AR/MR. [**Name13 (STitle) 133**] need Chest CT in future after acute
   issues resolve, however may need thoracentesis if persistently febrile.
   #RUE Swelling- Will get U/S to evaluate for DVT (especially b/c pt has
   ? h/o clots and s/p IVC filter)
   #Acute on Chronic Renal insufficiency- Pts Cr 2.8 and BUN 77;
   consistent with dehydration; especially given large volume stool output
   over past few days and poor PO intake.  Patient has been rehydrated in
   ED with 4L NS. Cr initially improved but now 2.6. [**Month (only) 51**] be ATN (had
   hypotension); vs pre-renal.
   -Send urine lytes today
   -Renally dose meds
   -Check renal U/S with dopplers
   #LE edema- This has been a chronic issue per OMR notes and the patients
   daughter; workup to date has included an ECHO [**11-13**] which showed an
   EF>55%. In setting of no anticoagulation and IVC filter in place,
   suspect thrombosis of filter contributing to edema. Proteinuria noted
   on urinalysis and concern previously was for nephrotic syndrome; with
   plans for outpatient neprhology.  Final CT read does show chronically
   occluded IVC filter.
   -Hold on diuretics
   #s/p IVC Filter- Appears occluded on CT Scan; has h/o DVT
   -Talk w/family regarding risks/benefits of anti-coagulation (especially
   given high fall risk)
   #CAD-No known coronary history but has risk factors & today's EKG with
   TWI in V1-V3 and first set of enzymes CK 348, MB 15, MBI 4.3, Troponin
   0.11 Presume Troponin elevated in setting of renal insufficiency
   (previous troponin on last admission 0.35), All 3 sets remained flat.
   -Continue aspirin
   #Hypoxia- Patient noted to be hypoxic in ED; has not been hypoxic since
   arrival to ICU. CXR with no evidence of pneumonia and recently
   completed course for HAP.  Hypoxia not an issue since arrival
   -Supplemental O2 prn
   #DM- Hold oral agents, continue ISS but not requiring any since
   admission
   -Continue aspirin
   #. Neuropathy: Chronic per recent gerontology notes
   #HTN- Hold anti-HTNs given dehydration/hypotension on arrival
   -bolus with LR prn
   #Rheumatoid Arthritis
   -Holding oxycodone [**2-6**] delirium
   #H/O Recent [**Name (NI) 13115**] Pt has ongoing history of falls, CT Head/Cspine
   negative per ED, no prodrome prior to fall per pt and may have been
   orthostatic.
   -Follow up final CT Head/Cspine read
   -ROMI as above
   #BPH- On Flomax at home, will hold until BP stable
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: 2 PIVs
   # CODE:  FULL per pt
   # CONTACT:  Daughter [**Name2 (NI) 13116**]
   # DISPO: ICU
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 FALL(S)
   ICU Care
   Nutrition:
   NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-2-11**] 01:40 PM
   20 Gauge - [**2125-2-11**] 01:41 PM
   Prophylaxis:
   DVT: has occluded IVC filter, pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-02-13 09:57:00 Physician Attending Progress Note
Chief Complaint: C.diff diarrhea.
   I saw and examined the patient, and was physically present with the [** **]
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   BP improved s/p IVF repletion.
   Glucose 80-160. No requiring any coverage.
   Tolerating
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2125-2-13**] 12:08 AM
   Infusions:
   Other [**Year (4 digits) **] medications:
   Other medications:
   MVI, ferrous sulfate, acetaminophen 650 tid, oxycontin on hold, asa
   325, insulin sliding scale, flagyl, vanco oral, heparin s/c.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-13**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**27**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36
C (96.8
   HR: 89 (89 - 103) bpm
   BP: 97/57(67) {77/40(46) - 120/85(90)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 63.1 kg
             Total In:
                                                                  4,227 mL
                                                                    445 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  3,867 mL
                                                                    445 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                    145 mL
   Urine:
                                                                    645 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,282 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, woody edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.6 g/dL
   230 K/uL
   95 mg/dL
   2.6 mg/dL
   17 mEq/L
   4.5 mEq/L
   82 mg/dL
   107 mEq/L
   136 mEq/L
   35.8 %
   14.0 K/uL
        [image002.jpg]
                             [**2125-2-11**]  02:57 PM
                             [**2125-2-11**]  11:22 PM
                             [**2125-2-12**]  02:39 AM
                             [**2125-2-12**]  11:19 AM
                             [**2125-2-12**]  05:30 PM
                             [**2125-2-13**]  05:27 AM
   WBC
   13.8
   13.8
   14.0
   Hct
   32.8
   35.0
   36.1
   35.8
   Plt
   [**Telephone/Fax (3) 13154**]
   Cr
   2.4
   2.2
   2.4
   2.6
   TropT
   0.07
   0.05
   0.05
   Glucose
   71
   66
   77
   95
   Other labs: PT / PTT / INR:15.8/36.6/1.4, CK / CKMB /
   Troponin-T:73/11/0.05, ALT / AST:36/59, Alk Phos / T Bili:93/0.5,
   Differential-Neuts:78.0 %, Band:15.0 %, Lymph:2.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:209 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:5.7 mg/dL
   Imaging: none new.
   Assessment and Plan
Hypotension: improved, continue IVF boluses prn.
C. diff colitis: abdomen remains benign, continues on flagyl iv and po
   vanco 250 q8. Will monitor stool output closely. Continue IVF boluses.
   Given 500cc this am.
 Falls: likely [**2-6**] to his neuropathy. Not a great candidate for
   anticoagulation. He reports feeling unstable with a walker and has a hx
   of falls
 Acute on Chronic renal failure: send urine lytes, urine eosinophils,
   spin urine. Renal ultrasound with doppler to evaluate for congestion.
   trend creatinine.
 Right Arm swelling: will obtain ultrasound to assess for DVT
   basilic vein thrombosis found, not considered a deep vein. Will treat
   with cool compresses and elevation
 Leukocytosis: continue to monitor check C.diff.
LE edema: evidence for clot distal to IVF filter on CT abdomen.
   Anticoagulation contraindicated given falls, will discuss this finding
   with his family and PCP.
   [**Name10 (NameIs) **] [**Name11 (NameIs) 81**]
   Nutrition:
   Comments: clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2125-2-11**] 01:40 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :[**Year (4 digits) **]
   Total time spent: 35 minutes

2125-02-14 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -ID curbside: PO Vanc for 3 weeks, 7 days IV Flagyl
   -RUE  U/S: Acute right basilic vein thrombus. No DVT.
   -Urine lytes FeNa 0.2
   -Renal U/S: no acute change, limited study.
   - diff: 11% bands
   - 2L during the day. Improved UOP
 ULTRASOUND - At [**2125-2-13**] 01:30 PM
   right arm and kidneys
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-2-13**] 05:30 PM
   Metronidazole - [**2125-2-13**] 11:41 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-2-13**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-14**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**27**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (96.9
   HR: 87 (68 - 95) bpm
   BP: 106/61(73) {92/50(62) - 113/69(79)} mmHg
   RR: 24 (16 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 63.1 kg
             Total In:
                                                                  3,725 mL
                                                                     76 mL
   PO:
                                                                  1,335 mL
             TF:
   IVF:
                                                                  2,390 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    520 mL
   Urine:
                                                                    650 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,075 mL
                                                                   -444 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   210 K/uL
   11.2 g/dL
   117 mg/dL
   2.3 mg/dL
   17 mEq/L
   3.9 mEq/L
   76 mg/dL
   109 mEq/L
   136 mEq/L
   34.1 %
   15.2 K/uL
        [image002.jpg]
                             [**2125-2-11**]  02:57 PM
                             [**2125-2-11**]  11:22 PM
                             [**2125-2-12**]  02:39 AM
                             [**2125-2-12**]  11:19 AM
                             [**2125-2-12**]  05:30 PM
                             [**2125-2-13**]  05:27 AM
                             [**2125-2-13**]  04:12 PM
                             [**2125-2-13**]  05:30 PM
                             [**2125-2-14**]  03:03 AM
   WBC
   13.8
   13.8
   14.0
   15.2
   Hct
   32.8
   35.0
   36.1
   35.8
   34.1
   Plt
   [**Telephone/Fax (3) 13176**]10
   Cr
   2.4
   2.2
   2.4
   2.6
   2.6
   2.4
   2.3
   TropT
   0.07
   0.05
   0.05
   Glucose
   71
   66
   77
   95
   [**Telephone/Fax (3) 13177**]
   Other labs: PT / PTT / INR:15.8/36.6/1.4, CK / CKMB /
   Troponin-T:73/11/0.05, ALT / AST:36/59, Alk Phos / T Bili:93/0.5,
   Differential-Neuts:86.0 %, Band:0.0 %, Lymph:5.0 %, Mono:4.0 %, Eos:4.0
   %, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:209 IU/L, Ca++:7.8
   mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   89 year old male with HTN, DM, CRI and recent C.diff colitis presents
   with ongoing diarrhea and dehyrdation
   # Diarrhea- Etiology likely  [**2-6**] to recurrence/relapse of C.diff
   colitis given recent history of, known + C.diff at rehab and incomplete
   treatment course. However viral gastroenteritis vs bacterial also on
   differntial. Pt does have elevated WBC with 30% bands now improving to
   11%  C.Diff positive on admission.
   - Continue IV Flagyl, PO Vanc- -per ID will plan for 7 days flagyl
   (day#[**4-11**]) and 3 weeks of PO Vanc
   - LR boluses prn
   - Hold ACE, BP meds given hypotension
   - KUB and CT Abdomen done; evidence of colitis; no free air/obstruction
   or megacolon
   #Elevated WBC- Presume [**2-6**] infectious diarrhea, At presentation
   bandemia 30%, U/A negative, CXR w/o obvious infection; will treat for
   C.diff as above and low threshold to start empiric treatment with
   Vanc/Zosyn if hemodynamically unstable, spikes fever. Given degree of
   bandemia on admission and that today is the first time no bands are
   visiualized, would expect for leukocytosis to start improving in next
   24-48hrs
   - Culture data to date neagative, positive for C.diff toxin
   - Follow daily diffs on leukocytosis (currently trending down)
   # Pleural Effusion: Unclear etiology as he is clinically hypovolemic.
   Patient with known AR/MR. [**Name13 (STitle) 133**] need Chest CT in future after acute
   issues resolve, however may need thoracentesis if persistently febrile-
   afebrile o/n
   #RUE Swelling- Ultrasound o/n showed no evidence of DVT, however
   superficial clot
   #Acute on Chronic Renal insufficiency- Pts Cr 2.8 and BUN 77;
   consistent with dehydration; especially given large volume stool output
   over past few days and poor PO intake.  Patient has been rehydrated in
   ED with 4L NS. Cr initially improved but now 2.6. [**Month (only) 51**] be ATN (had
   hypotension); vs pre-renal.
   -FENA 0.2
   -Renally dose meds
   -Renal ultrasound done with no acute change
   -Consider renal c/s
   #LE edema- This has been a chronic issue per OMR notes and the patients
   daughter; workup to date has included an ECHO [**11-13**] which showed an
   EF>55%. In setting of no anticoagulation and IVC filter in place,
   suspect thrombosis of filter contributing to edema. Proteinuria noted
   on urinalysis and concern previously was for nephrotic syndrome; with
   plans for outpatient neprhology.  Final CT read does show chronically
   occluded IVC filter.
   -Hold on diuretics
   #s/p IVC Filter- Appears occluded on CT Scan; has h/o DVT
   -Family understands risks of anti-coagulation; will hold for now
   #CAD-No known coronary history but has risk factors & today's EKG with
   TWI in V1-V3 and first set of enzymes CK 348, MB 15, MBI 4.3, Troponin
   0.11 Presume Troponin elevated in setting of renal insufficiency
   (previous troponin on last admission 0.35), All 3 sets remained flat.
   -Continue aspirin
   #DM- Hold oral agents, continue ISS but not requiring any since
   admission
   -Continue aspirin
   #. Neuropathy: Chronic per recent gerontology notes
   #HTN- Hold anti-HTNs given hypotension
   -bolus with LR prn
   #Rheumatoid Arthritis
   -Holding oxycodone [**2-6**] delirium
   #H/O Recent [**Name (NI) 13115**] Pt has ongoing history of falls, CT Head/Cspine
   negative per ED, no prodrome prior to fall per pt and may have been
   orthostatic.
   -Follow up final CT Head/Cspine read
   -ROMI as above
   #BPH- On Flomax at home, will hold until BP stable
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 FALL(S)
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-2-13**] 04:00 PM
   20 Gauge - [**2125-2-14**] 06:44 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-02-14 12:01:00 Physician Attending Progress Note
Chief Complaint: Diarrhea, weakness.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ULTRASOUND - At [**2125-2-13**] 01:30 PM
   right arm and kidneys + for RUE superficial clot.
   Improved bandemia. BP responded well to IVF. Urine lytes c/w prerenal
   picture.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-2-13**] 05:30 PM
   Metronidazole - [**2125-2-14**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-2-13**] 05:30 PM
   Other medications:
   RISS, MVI, [**Last Name (LF) **], [**First Name3 (LF) 5**] 325, heparin s/c, oral vanco 250 q6, flagyl 500 iv
   q8.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-14**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**27**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 94 (68 - 97) bpm
   BP: 107/64(74) {92/50(62) - 113/69(79)} mmHg
   RR: 20 (17 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 63.1 kg
             Total In:
                                                                  3,725 mL
                                                                    637 mL
   PO:
                                                                  1,335 mL
                                                                    420 mL
   TF:
   IVF:
                                                                  2,390 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    670 mL
   Urine:
                                                                    650 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,075 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 90%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, mildly
   distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.2 g/dL
   210 K/uL
   117 mg/dL
   2.3 mg/dL
   17 mEq/L
   3.9 mEq/L
   76 mg/dL
   109 mEq/L
   136 mEq/L
   34.1 %
   15.2 K/uL
        [image002.jpg]
                             [**2125-2-11**]  02:57 PM
                             [**2125-2-11**]  11:22 PM
                             [**2125-2-12**]  02:39 AM
                             [**2125-2-12**]  11:19 AM
                             [**2125-2-12**]  05:30 PM
                             [**2125-2-13**]  05:27 AM
                             [**2125-2-13**]  04:12 PM
                             [**2125-2-13**]  05:30 PM
                             [**2125-2-14**]  03:03 AM
   WBC
   13.8
   13.8
   14.0
   15.2
   Hct
   32.8
   35.0
   36.1
   35.8
   34.1
   Plt
   [**Telephone/Fax (3) 13176**]10
   Cr
   2.4
   2.2
   2.4
   2.6
   2.6
   2.4
   2.3
   TropT
   0.07
   0.05
   0.05
   Glucose
   71
   66
   77
   95
   [**Telephone/Fax (3) 13177**]
   Other labs: PT / PTT / INR:15.8/36.6/1.4, CK / CKMB /
   Troponin-T:73/11/0.05, ALT / AST:36/59, Alk Phos / T Bili:93/0.5,
   Differential-Neuts:86.0 %, Band:0.0 %, Lymph:5.0 %, Mono:4.0 %, Eos:4.0
   %, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:209 IU/L, Ca++:7.8
   mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Microbiology: Blood culture [**2-11**] negative.
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE): ongoing diarrhea but decreased [**Name8 (MD) **] RN, however not
   quantified. leukocytosis stable and not improved, but bandemia
   resolved. Continue vanco x3weeks and flagyl x1 week.Obtain upright film
   CXR. Ongoing fluid needs. Give 1 L of IVF his am for decreased urine
   output. Will send blood cultures given ongoing fluid requirement and
   septic physiology.
 FALL(S): anticoagulation contraindicated.
 IVC clot: s/p IVC filter, anticoagulation contraindicated,
Superficial Right arm clot: elevate right arm, and cold compresses for
   comfort
   ICU Care
   Nutrition: ADAT
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-2-13**] 04:00 PM
   20 Gauge - [**2125-2-14**] 06:44 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU given ongoing fluid requirement and septic physiology
   Total time spent: 30 minutes
   Patient is critically ill

2125-02-15 06:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2125-2-14**] 03:37 PM
   -Consider doing PO Vanc taper (per GI who was asked to see him by
   family)
   -CXR: FINDINGS: As compared to the previous radiograph, the volumes
   have slightly decreased. As a consequence, the size of the cardiac
   silhouette appears slightly larger than before. Increasing extent of
   the retrocardiac atelectasis, in light of leukocytosis, a developing
   pneumonia cannot be excluded. Small left-sided pleural effusion that is
   unchanged. New blunting of the right costophrenic sinus, a smallpleural
   effusion could also be present. In the ventilated lung regions, there
   is no evidence of pneumonia.
   -Cr improving to 2.1
   -WBC increasing this AM; no fever or cough but ordered repeat CXR
   before starting antibiotics
   -No New Culture data
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2125-2-15**] 12:22 AM
   Vancomycin - [**2125-2-15**] 12:22 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-15**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**27**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 90 (61 - 108) bpm
   BP: 118/72(83) {100/61(69) - 125/72(84)} mmHg
   RR: 20 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 63.1 kg
   Height: 66 Inch
             Total In:
                                                                  2,084 mL
                                                                    400 mL
   PO:
                                                                    860 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,224 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    280 mL
   Urine:
                                                                  1,225 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    859 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : Bases bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, Cyanosis, LE with chronic venous stasis
   Skin:  Warm. RUE swelling
   Labs / Radiology
   255 K/uL
   12.0 g/dL
   103 mg/dL
   1.9 mg/dL
   21 mEq/L
   3.6 mEq/L
   71 mg/dL
   110 mEq/L
   138 mEq/L
   37.3 %
   19.0 K/uL
        [image002.jpg]
                             [**2125-2-11**]  11:22 PM
                             [**2125-2-12**]  02:39 AM
                             [**2125-2-12**]  11:19 AM
                             [**2125-2-12**]  05:30 PM
                             [**2125-2-13**]  05:27 AM
                             [**2125-2-13**]  04:12 PM
                             [**2125-2-13**]  05:30 PM
                             [**2125-2-14**]  03:03 AM
                             [**2125-2-14**]  03:15 PM
                             [**2125-2-15**]  04:05 AM
   WBC
   13.8
   14.0
   15.2
   19.0
   Hct
   35.0
   36.1
   35.8
   34.1
   37.3
   Plt
   244
   230
   210
   255
   Cr
   2.2
   2.4
   2.6
   2.6
   2.4
   2.3
   2.1
   1.9
   TropT
   0.05
   0.05
   Glucose
   66
   77
   95
   [**Telephone/Fax (3) 13202**]67
   103
   Other labs: PT / PTT / INR:15.8/36.6/1.4, CK / CKMB /
   Troponin-T:73/11/0.05, ALT / AST:36/59, Alk Phos / T Bili:93/0.5,
   Differential-Neuts:86.0 %, Band:0.0 %, Lymph:5.0 %, Mono:4.0 %, Eos:4.0
   %, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:209 IU/L, Ca++:7.9
   mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   89 year old male with HTN, DM, CRI and recent C.diff colitis presents
   with ongoing diarrhea and dehyrdation
   # Diarrhea- Etiology likely  [**2-6**] to recurrence/relapse of C.diff
   colitis given recent history of, known + C.diff at rehab and incomplete
   treatment course. However viral gastroenteritis vs bacterial also on
   differntial. Pt does have elevated WBC with 30% bands now improving
   C.Diff positive on admission.
   - Continue IV Flagyl, PO Vanc- -per ID will plan for 7 days flagyl
   (day#[**4-11**]) and 3 weeks of PO Vanc
   - LR boluses prn
   - Hold ACE, BP meds given hypotension
   - KUB and CT Abdomen done; evidence of colitis; no free air/obstruction
   or megacolon
   #Elevated WBC- Presume [**2-6**] infectious diarrhea, At presentation
   bandemia 30%, U/A negative, CXR possible retocardiac opacity, but no
   cough or clinical symptoms; will treat for C.diff as above and low
   threshold to start empiric treatment with Vanc/Zosyn if hemodynamically
   unstable, spikes fever. Given degree of bandemia on admission and that
   today is the first time no bands are visiualized, would expect for
   leukocytosis to start improving in next 24-48hrs
   - Culture data to date neagative, positive for C.diff toxin
   - blood cx, urine and daily CXR
   - Follow daily diffs on leukocytosis (currently trending up)
   # Pleural Effusion: Unclear etiology as he is clinically hypovolemic.
   Patient with known AR/MR. [**Name13 (STitle) 133**] need Chest CT in future after acute
   issues resolve, however may need thoracentesis if persistently febrile-
   afebrile o/n
   #RUE Swelling- Ultrasound o/n showed no evidence of DVT, however
   superficial clot
   #Acute on Chronic Renal insufficiency- Pts Cr 2.8 and BUN 77;
   consistent with dehydration; especially given large volume stool output
   over past few days and poor PO intake.  Patient has been rehydrated in
   ED with 4L NS. Cr initially improved but now 2.6. [**Month (only) 51**] be ATN (had
   hypotension); vs pre-renal.
   -FENA 0.2
   -Renally dose meds
   -Renal ultrasound done with no acute change
   -Consider renal c/s
   #LE edema- This has been a chronic issue per OMR notes and the patients
   daughter; workup to date has included an ECHO [**11-13**] which showed an
   EF>55%. In setting of no anticoagulation and IVC filter in place,
   suspect thrombosis of filter contributing to edema. Proteinuria noted
   on urinalysis and concern previously was for nephrotic syndrome; with
   plans for outpatient neprhology.  Final CT read does show chronically
   occluded IVC filter.
   -Hold on diuretics
   #s/p IVC Filter- Appears occluded on CT Scan; has h/o DVT
   -Family understands risks of anti-coagulation; will hold for now
   #CAD-No known coronary history but has risk factors & today's EKG with
   TWI in V1-V3 and first set of enzymes CK 348, MB 15, MBI 4.3, Troponin
   0.11 Presume Troponin elevated in setting of renal insufficiency
   (previous troponin on last admission 0.35), All 3 sets remained flat.
   -Continue aspirin
   #DM- Hold oral agents, continue ISS but not requiring any since
   admission
   -Continue aspirin
   #. Neuropathy: Chronic per recent gerontology notes
   #HTN- Hold anti-HTNs given hypotension
   -bolus with LR prn
   #Rheumatoid Arthritis
   -Holding oxycodone [**2-6**] delirium
   #H/O Recent [**Name (NI) 13115**] Pt has ongoing history of falls, CT Head/Cspine
   negative per ED, no prodrome prior to fall per pt and may have been
   orthostatic.
   -Follow up final CT Head/Cspine read
   -ROMI as above
   #BPH- On Flomax at home, will hold until BP stable
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 FALL(S)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-2-13**] 04:00 PM
   20 Gauge - [**2125-2-14**] 06:44 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-02-15 11:22:00 Physician Attending Progress Note
Chief Complaint: Diarrhea, weakness.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BLOOD CULTURED - At [**2125-2-14**] 03:37 PM
   Wbc count still increasing.  But feels better today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2125-2-15**] 12:22 AM
   Metronidazole - [**2125-2-15**] 08:58 AM
   Infusions:
   Other ICU medications:
   Other medications:
   MVI, ferrous sulfate, asa 325, insulin sliding scale, falgyl 500 q8,
   vancomycin,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-2-15**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**27**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.2
   HR: 93 (61 - 108) bpm
   BP: 101/65(75) {100/61(73) - 125/72(84)} mmHg
   RR: 23 (14 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.1 kg (admission): 63.1 kg
   Height: 66 Inch
             Total In:
                                                                  2,084 mL
                                                                    786 mL
   PO:
                                                                    860 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,224 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    395 mL
   Urine:
                                                                  1,225 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    859 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Diminished: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   12.0 g/dL
   255 K/uL
   103 mg/dL
   1.9 mg/dL
   21 mEq/L
   3.6 mEq/L
   71 mg/dL
   110 mEq/L
   138 mEq/L
   37.3 %
   19.0 K/uL
        [image002.jpg]
                             [**2125-2-11**]  11:22 PM
                             [**2125-2-12**]  02:39 AM
                             [**2125-2-12**]  11:19 AM
                             [**2125-2-12**]  05:30 PM
                             [**2125-2-13**]  05:27 AM
                             [**2125-2-13**]  04:12 PM
                             [**2125-2-13**]  05:30 PM
                             [**2125-2-14**]  03:03 AM
                             [**2125-2-14**]  03:15 PM
                             [**2125-2-15**]  04:05 AM
   WBC
   13.8
   14.0
   15.2
   19.0
   Hct
   35.0
   36.1
   35.8
   34.1
   37.3
   Plt
   244
   230
   210
   255
   Cr
   2.2
   2.4
   2.6
   2.6
   2.4
   2.3
   2.1
   1.9
   TropT
   0.05
   0.05
   Glucose
   66
   77
   95
   [**Telephone/Fax (3) 13202**]67
   103
   Other labs: PT / PTT / INR:15.8/36.6/1.4, CK / CKMB /
   Troponin-T:73/11/0.05, ALT / AST:36/59, Alk Phos / T Bili:93/0.5,
   Differential-Neuts:79.0 %, Band:3.0 %, Lymph:7.0 %, Mono:8.0 %, Eos:0.0
   %, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:209 IU/L, Ca++:7.9
   mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR
   Microbiology: blood cultures negative to date.
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM
   DIFFICILE): in improved hemodynamic standpoint, Creatinine improved,
   Urine out put better. Continue IV 1L of IV fluids and creatinine is not
   yet at baseline.
 Leukocytosis:  still persistent, and more elevated, follow up
   differential, given improvement in every other respect.. will not start
   broad spectrum antibiotics just yet.. less likely is infection of the
   clot in the IVC or Clot contributing to elevated white count. He is on
   s/c heparin if wbc continues to rise will consider starting him on
   therapeutic anticoagulation, this seems less likely. Repeat urine and
   blood cultures today.
   ICU Care
   Nutrition: ADAT
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-2-13**] 04:00 PM
   20 Gauge - [**2125-2-14**] 06:44 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30